US05631399
Preparation of (+)1,1-dimethylethyl 3 amino-5-(trimethylsilyl)-4-pentynoate
To a 500 mL, 3-neck round bottom flask equipped with a mechanical stirrer and under a blanket of nitrogen was charged 110 mL of lithium bis(trimethylsilyl)amide (1.0M solution in THF) while maintaining the internal temperature at -20° C. using an isopropanol/dry ice bath. Once the desired temperature was attained, 20.14 g of 3-(trimethylsilyl)-2-propynal (a 62.7% solution in MTBE) was added to the reaction flask over 2 h. Upon completing the addition, the reaction mixture was stirred for 10 min at -20° C. followed by the addition of 10.3 g of trimethyl silyl chloride over a period of 20 min while maintaining the batch temperature at -20° C. Upon completing the addition the reaction mixture was stirred for 10 min at which time 69.7 g of t-butyl acetate was added to the reaction mixture over 15 min while maintaining the batch temperature at -20° C. The reaction mixture was stirred for 10 min at -20° C. at which time 19.2 mL of lithium bis(trimethylsilyl)amide (1.0M solution in THF) was added over a period of 40 min while maintaining the batch temperature at -20° C. An in-process check was performed on an aliquot using GC Method C to ensure that the area % of the desired product was >55%. The reaction mixture was added to an ammonium chloride solution (prepared by adding 5.0 g of ammonium chloride in 25 mL of water) and the mixture was allowed to reach ambient temperature with stirring (25° C.). The mixture was stirred at ambient temperature (25° C.) for 1 h. The mixture was transferred to a separatory funnel and the phases were separated. An in-process check was performed using GC Method C to determine the presence of desired product. This material was used without further purification. The solvent from the organic phase was removed under reduced pressure to give 34.5 g of the title compound as a brown oil (49.52 wt %, a molar yield of 70.7%).

reactant | lithium bis(trimethylsilyl)amide | 1.0M, 110 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(trimethylsilyl)-2-propynal | 20.14 g | C[Si](C#CC=O)(C)C | C6H10OSi
reactant | trimethyl silyl chloride | 10.3 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | t-butyl acetate | 69.7 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | lithium bis(trimethylsilyl)amide | 1.0M, 19.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | MTBE | CC(C)(C)OC | C5H12O
product | (+)1,1-dimethylethyl 3 amino-5-(trimethylsilyl)-4-pentynoate | NC(CC(=O)OC(C)(C)C)C#C[Si](C)(C)C | C12H23NO2Si
